US07759342B2
Building block used for the synthesis of N-cyclopentyl(1-hydroxy-4-{2-[(methylethyl)amino]-8-[(2,4,6-trifluorophenyl)amino]purin-9-yl}cyclohexyl)carboxamide
1-Hydroxy-4-{2-[(methylethyl)amino]-8-[(2,4,6-trifluorophenyl)amino]purin-9-yl}cyclohexanecarboxylic acid (0.200 g, 0.4 mmol) was dissolved in 4 mL of dry THF. Cyclopentyl amine (0.079 mL, 0.8 mmol) was added neat followed by di-isopropyl amine (0.105 mL, 0.6 mmol). Benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (BOP) was added last, as a solid in one portion at room temperature (0.177 g, 0.4 mmol). The reaction was complete within 10 min as confirmed by LC-MS. DMF was removed under reduced pressure. The residue was triturated in saturated aqueous sodium bicarbonate. The resulting beige solid was collected by filtration and washed with water. The crude product was re-crystallized from hot methanol-water. The crystals were dried in vacuum oven. (141 mg, 66% yield) M+1: 532.

reactant | 1-Hydroxy-4-{2-[(methylethyl)amino]-8-[(2,4,6-trifluorophenyl)amino]purin-9-yl}cyclohexanecarboxylic acid | 0.4 mmol, 0.200 g | OC1(CCC(CC1)N1C2=NC(=NC=C2N=C1NC1=C(C=C(C=C1F)F)F)NC(C)C)C(=O)O | C21H23F3N6O3
reactant | Cyclopentyl amine | 0.8 mmol, 0.079 mL | C1(CCCC1)N | C5H11N
reactant | di-isopropyl amine | 0.6 mmol, 0.105 mL | C(C)(C)NC(C)C | C6H15N
reactant | Benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | N-cyclopentyl(1-hydroxy-4-{2-[(methylethyl)amino]-8-[(2,4,6-trifluorophenyl)amino]purin-9-yl}cyclohexyl)carboxamide | 66% yield | C1(CCCC1)NC(=O)C1(CCC(CC1)N1C2=NC(=NC=C2N=C1NC1=C(C=C(C=C1F)F)F)NC(C)C)O | C26H32F3N7O2
